US04772600
2-(4-Chlorophenyl)-N-methyl-N-phenyl-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen atmosphere, oxalyl chloride (2.21 g, 0.0174 mole) was added slowly dropwise to a stirred and chilled (~10° C.) suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole) in 75 ml of dimethylformamide. After the addition was complete, the reaction was heated at 60° C. for 5 hrs. This acylchloride solution was added dropwise to a stirred and cooled (~10° C.) solution of N-methylaniline (2.02 g, 0.019 mole), triethylamine (1.88 g, 0.019 mole), and 74 ml of dimethylformamide. The reaction was stirred at room temperature overnight. The reaction mixture was poured into 200 ml of water and diluted with water until the cloud point. The mixture was seeded and refrigerated overnight. The solid was collected by filtration and dried under high vacuum. The solid was suspended in dilute sodium bicarbonate, collected by filtration, washed with water, and dried under high vacuum at 50° C. The solid was recrystallized from isopropyl alcohol-water, collected by filtration, washed with water, and dried under high vacuum first at 56° C., then at 98° C. for 2 days to give 3.0 g (45.7%) of crystals, mp 170°-171° C.

reactant | oxalyl chloride | 0.0174 mole, 2.21 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | N-methylaniline | 0.019 mole, 2.02 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 0.019 mole, 1.88 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | water | 200 ml | O | H2O
solvent | dimethylformamide | 74 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chlorophenyl)-N-methyl-N-phenyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.0 g, 45.7% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(C1=CC=CC=C1)C | C21H17ClN4O
